US07592373B2
3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[4-(2-diethylaminopropoxy)phenyl]amide
Prepared analogously to Example 2.3.f. from 67 mg (0.3 mmol) of 4-(2-diethylaminopropoxy)phenylamine and 75 mg (0.3 mmol) of (2-chloro-4-trifluoromethylphenyl)propynoic acid. Yield: 71 mg (52% of theory); melting point: 172° C.-176° C.; C23H24ClF3N2O2 (M=452.90); calc.: molecular ion peak (M+H)+: 453/455; found: molecular ion peak (M+H)+: 453/455; Rf value: 0.30 (silica gel, dichloromethane/methanol (9:1)).

reactant | 4-(2-diethylaminopropoxy)phenylamine | 0.3 mmol, 67 mg | C(C)N(C(COC1=CC=C(C=C1)N)C)CC | C13H22N2O
reactant | (2-chloro-4-trifluoromethylphenyl)propynoic acid | 0.3 mmol, 75 mg | ClC1=C(C=CC(=C1)C(F)(F)F)C#CC(=O)O | C10H4ClF3O2
solvent | dichloromethane methanol | ClCCl.CO
product | 3-(2-chloro-4-trifluoromethylphenyl)propynoic acid-[4-(2-diethylaminopropoxy)phenyl]amide | C(C)N(C(COC1=CC=C(C=C1)NC(C#CC1=C(C=C(C=C1)C(F)(F)F)Cl)=O)C)CC | C23H24ClF3N2O2
